US09283224B2
Step 1: 3-Nitro-4-(propan-2-yl)aniline
4-(Propan-2-yl)aniline (10.12 mL, 74 mmol) was added drop wise to sulfuric acid (96%, 57 mL), cooled to 8° C., maintaining the temperature below 10° C. After the addition, the reaction mixture was cooled to −5° C., before the addition of a mixture of nitric acid (100%, 3.7 mL) and sulfuric acid (96%, 9 mL), keeping the temperature below 0° C. The reaction mixture was then stirred at the same temperature for 1 h. The reaction mixture was poured into ice (200 mL) and the precipitate filtered and washed with water. The solid was suspended with water (100 mL) and neutralized with ammonium hydroxide (35%). The precipitate was filtered and dried in the oven to obtain a light-brown solid (9.49 g, 71%).

reactant | 4-(Propan-2-yl)aniline | 74 mmol, 10.12 mL | CC(C)C1=CC=C(N)C=C1 | C9H13N
reactant | sulfuric acid | 57 mL | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 3.7 mL | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 9 mL | S(O)(O)(=O)=O | H2O4S
product | 3-Nitro-4-(propan-2-yl)aniline | 9.49 g, 71% | [N+](=O)([O-])C=1C=C(N)C=CC1C(C)C | C9H12N2O2
